US08252792B2
2-(6-Fluoro-1H-indol-4-yl)-4-morpholin-4-yl-6-(4-pyrrolidin-1-yl-piperidin-1-ylmethyl)-thieno[3,2-d]pyrimidine
Prepared according to the method used in the preparation of 6-(cis-3,5-dimethyl-piperazin-1-ylmethyl)-2-(6-fluoro-1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine, using 4-pyrrolidin-1-yl-piperidine in place of 2,6-dimethyl-piperazine. The title compound was obtained as a white solid (31.5 mg, 48%).

reactant | 6-(cis-3,5-dimethyl-piperazin-1-ylmethyl)-2-(6-fluoro-1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | C[C@@H]1CN(C[C@@H](N1)C)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=C2C=CNC2=CC(=C1)F | C25H29FN6OS
reactant | 4-pyrrolidin-1-yl-piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | 2-(6-Fluoro-1H-indol-4-yl)-4-morpholin-4-yl-6-(4-pyrrolidin-1-yl-piperidin-1-ylmethyl)-thieno[3,2-d]pyrimidine | FC1=CC(=C2C=CNC2=C1)C=1N=C(C2=C(N1)C=C(S2)CN2CCC(CC2)N2CCCC2)N2CCOCC2 | C28H33FN6OS
